US06472412B1
Diisopropyl azodicarboxylate (13.5 mL) is added to a mixture of triphenylphosphine (18.15 g), 5-benzyloxy-2-trityloxymethyl-4-pyridone (21.1 g) and cyclopentanol (6.25 mL) in dry tetrahydrofuran (600 mL) at 10-15° C. under a nitrogen atmosphere. The mixture is stirred for 30 minutes then heated at reflux for 24 hours. After cooling the solvent is evaporated to give a brown oil which is purified by flash chromatography (n-pentane/ethyl acetate 4:1 v/v as eluent on silica) to give 5-benzyloxy-4-cyclopentyloxy-2-trityloxymethylpyridine as a colourless oil.

reactant | Diisopropyl azodicarboxylate | 13.5 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 18.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-benzyloxy-2-trityloxymethyl-4-pyridone | 21.1 g | C(C1=CC=CC=C1)OC=1C(CC(=NC1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H27NO3
reactant | cyclopentanol | 6.25 mL | C1(CCCC1)O | C5H10O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 5-benzyloxy-4-cyclopentyloxy-2-trityloxymethylpyridine | C(C1=CC=CC=C1)OC=1C(=CC(=NC1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1CCCC1 | C37H35NO3
